US08895313B2
4-{(E)-2-[4-(6-Methyl-1,3-benzothiazol-2-yl)phenyl]ethenyl}phenol
Prepared as described in the Alkene Formation section using diethyl 4-(6-methylbenzothiazol-2-yl)benzylphosphonate (0.10 g, 0.266 mmol) in dry THF (10 ml), potassium t-butoxide (0.063 g, 0.559 mmol) and 4-hydroxybenzaldehyde (0.033 g, 0.266 mmol) in dry THF (5 ml) to give the title compound (0.061 g, 67%) as a pale orange solid after work-up and flash chromatography (2:1 Hexane/EtOAc).

reactant | diethyl 4-(6-methylbenzothiazol-2-yl)benzylphosphonate | 0.266 mmol, 0.10 g | CC1=CC2=C(N=C(S2)C2=CC=C(CP(OCC)(OCC)=O)C=C2)C=C1 | C19H22NO3PS
reactant | potassium t-butoxide | 0.559 mmol, 0.063 g | CC(C)([O-])C.[K+]
reactant | 4-hydroxybenzaldehyde | 0.266 mmol, 0.033 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-{(E)-2-[4-(6-Methyl-1,3-benzothiazol-2-yl)phenyl]ethenyl}phenol | 0.061 g, 67% | CC1=CC2=C(N=C(S2)C2=CC=C(C=C2)/C=C/C2=CC=C(C=C2)O)C=C1 | C22H17NOS
